US05616717
Under a nitrogen atmosphere, 1.365 kg (12.86 moles) of benzaldehyde was added with stirring and cooling to 1.39 kg (12.86 moles) of 2-(aminomethyl)pyridine maintaining the temperature <50° C. After stirring for 2-4 hours, the mixture was diluted with 13 L oft-butylmethyl ether (MTBE). To the clear solution was added 1.05 kg (27.72 moles) sodium hydroxide (flakes) and 2.375 kg (6.43 moles) of tetrabutylammonium iodide. The suspension was stirred for 2 hrs., then 2.3 kg (12.86 moles) of cyclohexylmethyl bromide was added. The reaction mixture was refluxed for 36-48 hrs. After cooling the mixture, it was diluted with 3 L of water followed by 12 L of 3N hydrochloric acid and stirred for 2-6 hours. The organic phase was separated and discarded. The aqueous phase was washed four times with 3 L of methylene chloride, then basified with 2.5 L of 0.5N ammonium hydroxide solution. The racemic amine was extracted three times with 4 L of methylene chloride, dried over sodium sulfate and concentrated to dryness. The oil product was stirred with 2 L of hexane, filtered and concentrated to yield 1.14 kg (43.5%) of 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine.

reactant | benzaldehyde | 12.86 moles, 1.365 kg | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(aminomethyl)pyridine | 12.86 moles, 1.39 kg | NCC1=NC=CC=C1 | C6H8N2
reactant | sodium hydroxide | 27.72 moles, 1.05 kg | [OH-].[Na+]
reactant | cyclohexylmethyl bromide | 12.86 moles, 2.3 kg | C1(CCCCC1)CBr | C7H13Br
reactant | hydrochloric acid | 3N, 12 L | Cl | ClH
solvent | butylmethyl ether | C(CCC)OC | C5H12O
catalyst | tetrabutylammonium iodide | 6.43 moles, 2.375 kg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 3 L | O | H2O
product | 1-(R,S)-(2-pyridyl)-2-cyclohexylethylamine | 1.14 kg, 43.5% | N1=C(C=CC=C1)C(CC1CCCCC1)N | C13H20N2
